US04727180
To 100 ml of ethanol are added 8.8 g (0.025 mole) of 3-{2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-2-propenoic acid to produce a solution which is added to a pressure bottle and flushed with nitrogen. To the solution is added 1 g of 10% palladium on carbon. The pressure bottle is placed in a hydrogenation apparatus and pressurized to 1384 g/cm2 (50 lbs/in.2) with hydrogen. The pressure bottle is shaken until the pressure ceases dropping. The resulting solution is vented, filtered and evaporated at reduced pressure to obtain a residual solid which is recrystallized from chlorobutane o give 7.0 gm of 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid having a melting point of 116°-117°.

reactant | 3-{2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-2-propenoic acid | 0.025 mole, 8.8 g | COC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)C=CC(=O)O | C13H10F6O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid | 7.0 gm | COC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC(=O)O | C13H12F6O4
